### PR TITLE
[Merged by Bors] - feat(List/Perm): add lemmas

### PR DESCRIPTION
**Pull request by urkud**
- Add `List.map_perm_map_iff` and `List.Perm.flatMap`.
- Add some `@[gcongr]` and `@[simp]` attrs.
- Add `Relation.comp_fun_eq` and `Relation.fun_eq_comp`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Relation.lean [hunk 1]
```diff
@@ -120,18 +120,28 @@ def Comp (r : α → β → Prop) (p : β → γ → Prop) (a : α) (c : γ) : P
...
+@[simp]
+theorem comp_eq_fun (f : γ → β) : r ∘r (· = f ·) = (r · <| f ·) := by
+  ext x y
+  simp [Comp]
+
+@[simp]
+theorem comp_eq : r ∘r (· = ·) = r := comp_eq_fun ..
+
+@[simp]
+theorem fun_eq_comp (f : γ → α) : (f · = ·) ∘r r = (f · |> r <| ·) := by
```
Comment (eric-wieser) [inline Mathlib/Logic/Relation.lean:132]: Is this the same as
```suggestion
theorem fun_eq_comp (f : γ → α) : (f · = ·) ∘r r = (r <| f ·) := by
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
